US04314065
(b) Methyl 2-{4-[N-methyl-N-(5-nitro-2-thiazolyl)amino]phenoxy}propionate (52)
A mixture of 4-[N-methyl-N-(5-nitro-2-thiazolyl)amino]phenol (2.51 g), methyl 2-bromopropionate (1.67 g), anhydrous potassium carbonate (1.52 g) and methyl ethyl ketone (50 ml) was heated under reflux for a period of 18 hours. The mixture was cooled, extracted with dichloromethane and the organic extract was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to give a brown oil. The crude product was purified by chromatography over silica gel with dichloromethane elution to give the required product (1.2 g) as a colourless oil. The pmr spectrum of the product was consistent with the assigned structure (CDCl3 ; chemical shift δ ppm): 1.65, d, 3H; 3.55, s, 3H; 3.85, s, 3H; 4.80, q, 1H; 7.20, m, 4H; 8.20, s, 1H.

reactant | 4-[N-methyl-N-(5-nitro-2-thiazolyl)amino]phenol | 2.51 g | CN(C=1SC(=CN1)[N+](=O)[O-])C1=CC=C(C=C1)O | C10H9N3O3S
reactant | methyl 2-bromopropionate | 1.67 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | potassium carbonate | 1.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | Methyl 2-{4-[N-methyl-N-(5-nitro-2-thiazolyl)amino]phenoxy}propionate | 1.2 g | CN(C=1SC(=CN1)[N+](=O)[O-])C1=CC=C(OC(C(=O)OC)C)C=C1 | C14H15N3O5S
